US07842758B2
4-(1-Dodecyloxy)Iodobenzene
4-Iodophenol (3.03 g, 1.38×10−2 mol), 1-bromododecane (6.65 ml, 2.77×10−2 mol) and K2CO3 (3.81 g, 2.76×10−2 mol) were dissolved in 50 ml of dry DMF and refluxed for 3.5 h under N2. After cooling, the solution was diluted with water, 2M HCl, and extracted with CH2Cl2. The combined organic layers were washed with saturated aq. NaHCO3, water, and dried over Na2SO4. The product was chromatographed on silica gel with 3:1 hexane:CHCl3 as the eluent. Yield=5.274 g (98% based on 3.03 g of 4-iodophenol). 1H NMR (250 MHz, CDCl3): δ 7.53 (d, 2H, J=8.8 Hz, Ph), 6.67 (d, 2H, J=9.0 Hz, Ph), 3.90 (t, 2H, J=6.5 Hz, —OCH2—), 1.76 (quint, 2H, J=6.6 Hz, —OCH2CH2—), 1.13-1.48 (m, 18H, —CH2—), 0.88 (t, 3H, J=6.4 Hz, —CH3). CI MS m/z: 388.125 (M+) (calcd 388.126).

reactant | 4-Iodophenol | 1.38×10−2 mol, 3.03 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 1-bromododecane | 2.77×10−2 mol, 6.65 ml | BrCCCCCCCCCCCC | C12H25Br
reactant | K2CO3 | 2.76×10−2 mol, 3.81 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | HCl | 2M | Cl | ClH
product | 4-(1-Dodecyloxy)Iodobenzene | C(CCCCCCCCCCC)OC1=CC=C(C=C1)I | C18H29IO
